US05300717
o-xylene is reacted with propene to give 1,2-dimethyl-4-isopropylbenzene,

reactant | propene | C=CC | C3H6
reactant | o-xylene | CC=1C=CC=CC1C | C8H10
product | 1,2-dimethyl-4-isopropylbenzene | CC1=C(C=C(C=C1)C(C)C)C | C11H16
